US04337256
1-(4-Bromophenyl)-5-methylisoquinoline (26 g) was dissolved in 200 ml of carbon tetrachloride, and 17.6 g of N-bromosuccinimide was added. Under irradiation of light, the mixture was heated with stirring for 30 minutes. After the reaction, the insoluble matter was removed by filtration. The filtrate was washed in water, dried, and concentrated to remove the solvent. Thus, 1-(4-bromophenyl)-5-bromomethylisoquinoline was obtained. The product was dissolved in 150 ml of acetic acid, and 30 g of anhydrous sodium acetate was added. The mixture was stirred at 140° to 150° C. for 3 hours. After the reaction, the acetic acid was distilled off. The residue was poured into water, and neutralized with an aqueous solution of sodium hydroxide. The resulting oily product was extracted with benzene to afford 30 g of 1-(4-bromophenyl)-5-acetoxymethylisoquinoline. The product was heated with stirring for 2 hours together with 350 ml of methanol and 60 ml of 5 N sodium hydroxide. After the reaction, the reaction mixture was concentrated to remove the solvent. Water was added, and the crystals precipitated were collected by filtration. Recrystallization from benzene-tetrahydrofuran afforded 21 g of 1-(4-bromophenyl)-5-hydroxymethylisoquinoline having a melting point of 225.5° to 226.5° C.

reactant | 1-(4-Bromophenyl)-5-methylisoquinoline | 26 g | BrC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)C | C16H12BrN
reactant | N-bromosuccinimide | 17.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-bromophenyl)-5-bromomethylisoquinoline | BrC1=CC=C(C=C1)C1=NC=CC2=C(C=CC=C12)CBr | C16H11Br2N
